US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0497 g, 0.164 mmol) and 2-bromoethyl methyl ether (0.030 mL, 0.319 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0169 g, 23.3%). EI-MS m/z 361(M+) Rt (1.84 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0497 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 2-bromoethyl methyl ether | 0.319 mmol, 0.030 mL | COCCBr | C3H7BrO
product | 4-[cyano(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0169 g, 23.3% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H29N2O.BrH/c1-27-19-18-26-15-12-23(13-16-26,14-17-26)24(20-25,21-8-4-2-5-9-21)22-10-6-3-7-11-22;/h2-11H,12-19H2,1H3;1H/q+1;/p-1
